US03966397
1-(4-Aminothiobenzoyl)piperidine ##SPC5##
1-(4-Acetamidothiobenzoyl)piperidine (131.2 g, 0.5 mole), ethanol (500 ml), water (1 l) and concentrated sulphuric acid (125 ml) were mixed together and refluxed for 16 hours with stirring; nearly all the solid dissolved during the first hour. The reaction mixture was cooled to about 40°C and filtered quickly to remove any insoluble material. The filtrate was then made alkaline with 6N sodium hydroxide solution using external ice-cooling. The yellow crystalline solid was filtered off, washed with water and dried in vacuo at a temperature of under 50°C. Recrystallisation of the crude product (91 g; m.p. 162°-164°) by dissolving in 6 volumes of warm chloroform (about 546 ml) followed by adding 5 volumes of petroleum ether (b.p. 40°-60°) (about 455 ml) yielded yellow crystals (85 g; 77.3%), m.p. 164°-165°.

reactant | 1-(4-Acetamidothiobenzoyl)piperidine | 0.5 mole, 131.2 g | C(C)(=O)NC1=CC=C(C(=S)N2CCCCC2)C=C1 | C14H18N2OS
reactant | ethanol | 500 ml | C(C)O | C2H6O
reactant | sulphuric acid | 125 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 l | O | H2O
product | 1-(4-Aminothiobenzoyl)piperidine | NC1=CC=C(C(=S)N2CCCCC2)C=C1 | C12H16N2S
